US06525042B1
1-tert-butoxycarbonyl-4-[(methoxycarbonyl)methylene]piperidine
In tetrahydrofuran (40 ml), methyl dimethylphosphono-acetate (1.8 ml) was dissolved. To the resulting solution, 60% oily sodium hydride (450 mg) was added under ice cooling, followed by stirring under the same condition. After the addition of a solution of 1-(tert-butoxycarbonyl)-4-piperidone (2.05 g) in tetrahydrofuran (tetrahydrofuran: 10 ml) and stirring at room temperature for 30 minutes, the reaction mixture was diluted with ethyl acetate. To the diluted solution, 2N hydrochloric acid was added. The organic layer was separated, washed with a saturated aqueous solution of sodium bicarbonate and saturated aqueous saline, and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=6:1), whereby the title compound (2.35 g, 92%) was obtained.

reactant | sodium hydride | 450 mg | [H-].[Na+]
reactant | 1-(tert-butoxycarbonyl)-4-piperidone | 2.05 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | methyl dimethylphosphono-acetate | 1.8 ml | COP(=O)(OC)CC(=O)OC | C5H11O5P
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-butoxycarbonyl-4-[(methoxycarbonyl)methylene]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC(=O)OC | C13H21NO4
